US08685986B2
25-(b) (6-{(Pyridin-2-ylsulfonyl)[4-(4-trifluoromethylthiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid
Reaction and post-treatment were carried out in the same manlier as in Example 21-(b) except for using tert-butyl[tert-butoxycarbonyl(6-{(pyridin-2-ylsulfonyl)[4-(4-trifluoromethylthiazol-2-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate (440 mg, 0.611 mmol) obtained in Example 25-(a) in place of tert-butyl[tert-butoxycarbonyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate to afford the title compound (293 mg) as a white solid. (Yield: 85%)

reactant | tert-butyl[tert-butoxycarbonyl(6-{(pyridin-2-ylsulfonyl)[4-(4-trifluoromethylthiazol-2-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate | 0.611 mmol, 440 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NCC1=CC=C(C=C1)C=1SC=C(N1)C(F)(F)F)S(=O)(=O)C1=NC=CC=C1)C(=O)OC(C)(C)C)=O | C33H36F3N5O6S2
reactant | tert-butyl[tert-butoxycarbonyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OC(C)(C)C)=O | C32H38N6O6S
product | (6-{(Pyridin-2-ylsulfonyl)[4-(4-trifluoromethylthiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid | 293 mg, Yield: 85% | N1=C(C=CC=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)C=1SC=C(N1)C(F)(F)F | C24H20F3N5O4S2
